### PR TITLE
Proof of the theorem `inx_lies_on_fst_extn_line`

### PR DESCRIPTION
**Pull request by mbkybky**

### CODE REVIEW

File: EuclideanGeometry/Foundation/Axiom/Basic/Vector.lean [hunk 1]
```diff
@@ -752,12 +752,23 @@ section Linear_Algebra
...
 def cv (u v w: Vec) : ℝ := (det u v)⁻¹ * (u.1 * w.2 - w.1 * u.2)
 
+theorem cu_cv (u v w : Vec) : cu u v w = cv v u w := by
+  rw[cu, cv, det_symm v u, inv_neg]
+  field_simp
+
+theorem cu_neg (u v w : Vec) : cu u v (- w) = - cu u v w := by
+  rw[cu, cu, neg_mul_eq_mul_neg]
+  congr
+  rw[Complex.neg_re, Complex.neg_im, neg_mul, mul_neg, sub_neg_eq_add, neg_sub, neg_add_eq_sub]
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Axiom/Basic/Vector.lean:770]: please add whitespace between `rw` and `[]`

File: EuclideanGeometry/Foundation/Axiom/Linear/Parallel.lean [hunk 2]
```diff
@@ -82,9 +82,35 @@ section construction
...
+theorem inx_of_extn_line_symm (r₁ r₂ : Ray P) (h : r₂.toProj ≠ r₁.toProj) :
+  inx_of_extn_line r₁ r₂ h = inx_of_extn_line r₂ r₁ h.symm := by
+  have hsymm : cu r₁.toDir.toVec_nd r₂.toDir.toVec_nd (VEC r₁.source r₂.source) • r₁.toDir.toVec =
+      cu r₂.toDir.toVec_nd r₁.toDir.toVec_nd (VEC r₂.source r₁.source) • r₂.toDir.toVec + 
+      (r₂.source -ᵥ r₁.source) := by
+    have h1 : r₁.toDir.toVec_nd = r₁.toDir.toVec := rfl
+    have h2 : r₂.toDir.toVec_nd = r₂.toDir.toVec := rfl
+    have h := linear_combination_of_not_colinear_dir (VEC r₁.source r₂.source) h
+    nth_rw 1 [← EuclidGeom.cu_cv, Vec.mk_pt_pt] at h
+    rw [h1, h2, h, ← neg_vec r₁.source r₂.source, cu_neg, Complex.real_smul, neg_smul]
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Axiom/Linear/Parallel.lean:94]: since `h1 h2` are `rfl`, do you really need to rw h1 h2?  Maybe I am wrong.

File: EuclideanGeometry/Foundation/Axiom/Basic/Vector.lean (hunk 1 above)
Comment (mbkybky) [reply EuclideanGeometry/Foundation/Axiom/Basic/Vector.lean]: I have finished

File: EuclideanGeometry/Foundation/Axiom/Linear/Parallel.lean (hunk 2 above)
Comment (mbkybky) [reply EuclideanGeometry/Foundation/Axiom/Linear/Parallel.lean]: I have finished

**Comment by jjdishere** [comment]
If you finished your change, please leave a comment here to ask for a new review. Otherwise I won't start to look at your changes. Thanks!

**Comment by mbkybky** [comment]
> If you finished your change, please leave a comment here to ask for a new review. Otherwise I won't start to look at your changes. Thanks!

OK. I have finished my changes. Please review it again.

**Review by jjdishere — APPROVED** [review]
Very good! Good coding style!
